US08975398B2
tert-butyl (2,2-dimethyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propyl)carbamate
A solution of tert-butyl (3-hydroxy-2,2-dimethylpropyl)carbamate (1.000 g, 4.92 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.145 g, 5.90 mmol) and 2-(tributylphosphoranylidene)acetonitrile (1.425 g, 5.90 mmol) were stirred together in toluene (20 ml) at 90° C. overnight. The reaction mixture was concentrated and purified by normal phase chromatography to give the title compound.

reactant | tert-butyl (3-hydroxy-2,2-dimethylpropyl)carbamate | 4.92 mmol, 1.000 g | OCC(CNC(OC(C)(C)C)=O)(C)C | C10H21NO3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.90 mmol, 1.145 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 2-(tributylphosphoranylidene)acetonitrile | 5.90 mmol, 1.425 g | C(CCC)P(=CC#N)(CCCC)CCCC | C14H28NP
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (2,2-dimethyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propyl)carbamate | CC(CNC(OC(C)(C)C)=O)(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C19H34BN3O4
